US08372879B2
At ambient temperature, 5 g of (E)-3-[(tert-butyl-dimethylsilanyloxy)buta-1,3-dienyl]dimethylamine are added to a solution of 3.9 g of cyclopentanone in 11 ml of 2-butanol. The reaction mixture is stirred for 18 h at ambient temperature. The solvent is evaporated off and then the residue is taken up in 100 ml of diethyl ether. The mixture is cooled to −78° C. and then 1.9 ml of acetyl chloride are added slowly. The mixture is stirred for 10 min at −78° C. and then the reaction is stopped by adding 100 ml of a saturated solution of ammonium chloride. The resulting mixture is extracted with 200 ml of diethyl ether, and the organic phases are combined, and then dried over anhydrous sodium sulphate. The residue is chromatographed on silica gel (8/2 heptane/ethyl acetate). The residue is dissolved in 50 ml of methanol, and then 200 mg of palladium-on-charcoal at 10% are added. The reaction mixture is stirred for 2 hours under a hydrogen atmosphere. The reaction mixture is filtered and then the methanol is evaporated off. 600 mg of 6-oxaspiro[4.5]decan-9-one are obtained. Yield=18%.

reactant | cyclopentanone | 3.9 g | C1(CCCC1)=O | C5H8O
solvent | 2-butanol | 11 ml | CC(CC)O | C4H10O
product | 6-oxaspiro[4.5]decan-9-one | 600 mg, Yield=18% | C1CCCC12OCCC(C2)=O | C9H14O2
